US05650510
To a slurry of 6.26 g (149 mmol) of 57% NaH and 300 mL of n-pentane at 0° C. was added 17.14 g (124 mmol) of diethylphosphite and the mixture was stirred for 1 hour at 0°. The mixture was then cooled to -70° and 25 g (124 mmol) of 1-bromo-4-(chloromethoxy)butane was added and the reaction mixture warmed to 0° and stirred for 1 hour. The mixture was then filtered and evaporated. The residue was purified by SiO2 chromatography to give 26 g (70%) of 1-bromo-4-(diethylphosphonomethoxy)butane as a colorless oil.

reactant | NaH | 149 mmol, 6.26 g | [H-].[Na+]
reactant | diethylphosphite | 124 mmol, 17.14 g | C(C)OP(OCC)[O-]
reactant | 1-bromo-4-(chloromethoxy)butane | 124 mmol, 25 g | BrCCCCOCCl | C5H10BrClO
solvent | n-pentane | 300 mL | CCCCC | C5H12
product | 1-bromo-4-(diethylphosphonomethoxy)butane | 26 g, 70% | BrCCCCOCP(=O)(OCC)OCC | C9H20BrO4P
